US06900244B2
Ethyl N-methyl-N-phenylalaninate
To a solution of ethyl N-phenylalaninate (2 g, 10.3 mmol) in DMF (103 mL) was added powdered potassium carbonate (2.6 g, 18.5 mmol) followed by iodomethane (1.03 mL, 16.6 mmol) and the resulting mixture was heated at 70° C. over 3 days. The reaction mixture was cooled to room temperature and diluted with 1 M HCl and ethyl acetate. The product was extracted 3 times with ethyl acetate and the combined organics washed with brine, dried (MgSO4), and concentrated in vacuo. Purification by flash chromatography (8:1 hexanes/EtOAc) yielded the title compound as a colorless oil (725 mg, 34%). MS (ES+) m/z 208 (MH+).

reactant | ethyl N-phenylalaninate | 10.3 mmol, 2 g | C1(=CC=CC=C1)N[C@@H](C)C(=O)OCC | C11H15NO2
reactant | potassium carbonate | 18.5 mmol, 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 16.6 mmol, 1.03 mL | IC | CH3I
solvent | DMF | 103 mL | CN(C)C=O | C3H7NO
solvent | HCl | 1 M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl N-methyl-N-phenylalaninate | 725 mg, 34% | CN([C@@H](C)C(=O)OCC)C1=CC=CC=C1 | C12H17NO2
